US08802670B2
To a solution of 6-bromomethyl-2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine (500 mg) and N-Methyl-N-pyrrolidin-3-yl-methanesulfonamide hydrochloride salt (370 mg) in acetonitrile (10 mL) was added potassium carbonate (490 mg). The reaction mixture was heated at 80° C. for 16 h and then allowed to cool to room temperature. The mixture was then partitioned between dichloromethane (20 mL) and saturated aqueous sodium bicarbonate solution (20 mL) and the organic layer washed with brine (20 mL), dried (MgSO4), reduced in vacuo and purified on column chromatography to give N-methyl-N-[1-(2-methyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-pyrrolidin-3-yl]-methanesulfonamide as a pale yellow solid (395 mg).

reactant | 6-bromomethyl-2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | 500 mg | BrCC1=CC=2N=C(N=C(C2S1)N1CCOCC1)Cl | C11H11BrClN3OS
reactant | N-Methyl-N-pyrrolidin-3-yl-methanesulfonamide hydrochloride salt | 370 mg | Cl.CN(S(=O)(=O)C)C1CNCC1
reactant | potassium carbonate | 490 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N-methyl-N-[1-(2-methyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-pyrrolidin-3-yl]-methanesulfonamide | 395 mg | CN(S(=O)(=O)C)C1CN(CC1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)C | C18H27N5O3S2
